* testskeem opvoimendi maksimaalse valjundpinge kasvukiiruse maaramiseks

VCC vp 0 DC 9
VEE vn 0 DC -9

VIN inp 0 PULSE(-0.5 0.5 1u 1n 1n 20u 40u)

RFB out inn 1
RIN inn 0 1e12

RL out 0 10k

XU1 inp inn vp vn out OP07
.include op07.txt

.tran 1n 50u

.control
reset
run

meas tran vlow  FIND v(out) AT=40u
meas tran vhigh FIND v(out) AT=49u

let dv = vhigh - vlow
let v10 = vlow + 0.1*dv
let v90 = vlow + 0.9*dv

meas tran t10 WHEN v(out)=v10 RISE=2
meas tran t90 WHEN v(out)=v90 RISE=2

let sr = 0.8*dv/(t90-t10)
let sr_us = sr/1e6

print vlow
print vhigh
print t10
print t90
print sr
print sr_us

set filetype=ascii
wrdata op07_sr.txt time v(out)

plot v(out)
.endc

.end